US07384934B2
(S)-8-Fluoro-2-isopropyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate
Dissolve (S)-8-fluoro-2-isopropyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine (0.046 g, 0.12 mmol) in dichloromethane (6 ml). Add sodium triacetoxyborohydride (0.049 g, 0.23 mmol) and formaldehyde (0.004 g, 0.14 mmol, 0.011 g of a 37% aqueous solution) and stir the mixture for two hours at ambient temperature. Dilute the mixture with 50 mL of saturated aqueous sodium chloride and extract three times with dichloromethane. Combine the organic layers, dry, over sodium sulfate and remove the solvent under reduced pressure. Purification via flash chromatography, eluting with a mixture of 50% hexanes and 50% dichloromethane with 1% total volume isopropylamine, gives the free base of the title compound (0.030 g, 0.07 mmol, 63% yield) as a yellow amorphous solid. Convert to the succinate salt as described previously: Mass Spectrum (m/e): 411(M+1).

reactant | (S)-8-fluoro-2-isopropyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 0.12 mmol, 0.046 g | FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N3C[C@@H](NCC3)CCOC)C1 | C23H29FN4O
reactant | sodium triacetoxyborohydride | 0.23 mmol, 0.049 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | sodium chloride | 50 mL | [Cl-].[Na+]
product | (S)-8-Fluoro-2-isopropyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate | 0.07 mmol, 0.030 g, 63% yield | C(CCC(=O)O)(=O)O.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N3C[C@@H](N(CC3)C)CCOC)C1 | InChI=1S/C24H31FN4O.C4H6O4/c1-16(2)17-5-7-21-20(13-17)24(27-23-14-18(25)6-8-22(23)26-21)29-11-10-28(3)19(15-29)9-12-30-4;5-3(6)1-2-4(7)8/h5-8,13-14,16,19,26H,9-12,15H2,1-4H3;1-2H2,(H,5,6)(H,7,8)/t19-;/m0./s1
